US06518268B1
A 2.5 mol/L sodium hydroxide aqueous solution (1.7 mL, 4.4 mmol) and tetrabutylammonium bromide (0.017 g, 0.051 mmol) were added to 2-chlorobenzenethiol (0.17 g, 1.0 mmol), followed by stirring at 25° C. for 10 minutes. To the reaction liquid was added a toluene (1.7 mL) solution of 2-fluoro-5-nitrobenzaldehyde (0.18 g, 1.0 mmol), followed by stirring at 110° C. for 2 hours. After the conventional post-reaction treatment, the residue was purified by silica gel chromatography (eluted by chloroform) to give 2-[(2-chlorophenyl)thio]-5-nitrobenzaldehyde (0.25 g, 83%).

reactant | sodium hydroxide | 4.4 mmol, 2.5 mol/L, 1.7 mL | [OH-].[Na+]
reactant | 2-chlorobenzenethiol | 1.0 mmol, 0.17 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | 2-fluoro-5-nitrobenzaldehyde | 1.0 mmol, 0.18 g | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
catalyst | tetrabutylammonium bromide | 0.051 mmol, 0.017 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 1.7 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(2-chlorophenyl)thio]-5-nitrobenzaldehyde | 0.25 g, 83% | ClC1=C(C=CC=C1)SC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C13H8ClNO3S
